* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 17.8
R1 n1 a 3
R2 a nc 3
V2 nc nd DC 23.5
R3 nd ne 2
V3 b ne DC 10.8
V4 nf b DC 14
R4 nf 0 4
.op
.print dc V(a) V(b)
.end